US06992087B2
To a solution of (1R,2R)-N1-[3,6-dicyclopropyl-5-(2,4-dichlorophenyl)pyrazin-2-yl]-2,3-dihydro-1H-indene-1,2-diamine (0.10 g, 0.22 mmol) in MeOH (2 mL) containing acetic acid (2 drops) and methoxyacetaldehye (49 mg, 0.66 mmol) was added NaBH3CN (1 M solution in THF, 0.8 mL, 0.8 mmol). The mixture was stirred at rt overnight. Dilute with sat. aq. NaHCO3 and extract ED with EtOAc (3×30 mL). The combined organic extracts were dried over MgSO4, filtered and concentrated to afford an oil that was purified by biotage MPLC (90 g column, 10% ethyl acetate/hexanes) to afford 0.11 g (20%) of (1R,2R)-N1-[3,6-dicyclopropyl-5-(2,4-dichlorophenyl)pyrazin-2-yl]-N2-(2-methoxyethyl)-2,3-dihydro-1H-indene-1,2-diamine as a solid: 1H NMR (CDCl3) δ 0.60-1.01, 1.45-1.70, 2.83-2.99, 3.22-3.33, 3.47-3.56, 5.19, 5.53, 7.11-7.42; MS (ESI+) for C28H30Cl2N4O m/z 509 (M+H)+.

reactant | (1R,2R)-N1-[3,6-dicyclopropyl-5-(2,4-dichlorophenyl)pyrazin-2-yl]-2,3-dihydro-1H-indene-1,2-diamine | 0.22 mmol, 0.10 g | C1(CC1)C=1C(=NC(=C(N1)C1=C(C=C(C=C1)Cl)Cl)C1CC1)N[C@H]1[C@@H](CC2=CC=CC=C12)N | C25H24Cl2N4
reactant | methoxyacetaldehye | 0.66 mmol, 49 mg | COCC=O | C3H6O2
reactant | NaBH3CN | 0.8 mmol, 1 M, 0.8 mL | [BH3-]C#N.[Na+]
solvent | MeOH | 2 mL | CO | CH4O
catalyst | acetic acid | 2 drops | C(C)(=O)O | C2H4O2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | (1R,2R)-N1-[3,6-dicyclopropyl-5-(2,4-dichlorophenyl)pyrazin-2-yl]-N2-(2-methoxyethyl)-2,3-dihydro-1H-indene-1,2-diamine | 0.11 g, 20% | C1(CC1)C=1C(=NC(=C(N1)C1=C(C=C(C=C1)Cl)Cl)C1CC1)N[C@H]1[C@@H](CC2=CC=CC=C12)NCCOC | C28H30Cl2N4O
